US09102591B2
A solution of 2-(2-methylpyrimidin-5-yl)acetonitrile (1.0 g, 7.51 mmol) and 4-chloropyridine hydrochloride (1.13 g, 7.51) in dioxane (20 mL) in a dried flask was degassed and filled with nitrogen. t-BuOK (18.8 mL, 1M in THF) was added. The mixture was stiffed at 100° C. for 4 h and cooled to room temperature, quenched by cooled sat. aq. NH4Cl (20 mL). The resulting mixture was extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine (3×10 mL), dried over Na2SO4, concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (MeOH: EtOAc=1:10) to give 2-(2-methylpyrimidin-5-yl)-2-(pyridin-4-yl)acetonitrile (700 mg, crude).

reactant | 2-(2-methylpyrimidin-5-yl)acetonitrile | 7.51 mmol, 1.0 g | CC1=NC=C(C=N1)CC#N | C7H7N3
reactant | 4-chloropyridine hydrochloride | 1.13 g | Cl.ClC1=CC=NC=C1
reactant | t-BuOK | 1M, 18.8 mL | CC(C)(C)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-(2-methylpyrimidin-5-yl)-2-(pyridin-4-yl)acetonitrile | 700 mg | CC1=NC=C(C=N1)C(C#N)C1=CC=NC=C1 | C12H10N4
